US06630509B2
(b) 2-Ethoxy-3-{4-[2-(4-ethylphenyl)ethoxy]phenyl}propanoic acid
Ethyl 2-ethoxy-3-{4-[2-(4-ethylphenyl)ethoxy]phenyl}propanoate (0.48 g, 1.3 mmol) was dissolved in dioxane (5 ml). Lithium hydroxide monohydrate (0.2 g, 4.76 mmol) in water (5 ml) was added. The mixture was stirred overnight and then acidified with 1M hydrochloric acid, pH ˜3-4. Dioxane was removed by evaporation in vacuum. The residue was diluted with water and then extracted with dichloromethane. The organic phase was washed with brine and dried with sodium sulfate. The solvent was then evaporated. 0.48 g desired product was obtained, yield 100%.

reactant | Ethyl 2-ethoxy-3-{4-[2-(4-ethylphenyl)ethoxy]phenyl}propanoate | 1.3 mmol, 0.48 g | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)CC | C23H30O4
reactant | Lithium hydroxide monohydrate | 4.76 mmol, 0.2 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | 2-Ethoxy-3-{4-[2-(4-ethylphenyl)ethoxy]phenyl}propanoic acid | 0.48 g, yield 100% | C(C)OC(C(=O)O)CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)CC | C21H26O4
